US09428456B2
1.001d): 1-(3-Amino-benzyl)-piperidine-4-carboxylic acid cyclohexylamide BB-1
A solution of [3-(4-cyclohexylcarbamoyl-piperidin-1-ylmethyl)-phenyl]-carbamic acid tert-butyl ester (4.6 g, 11.1 mmol) in 1,4-dioxane (110 mL) is cooled down to 0° C. and treated with a 4N HCl solution in 1,4-dioxane (24.9 mL, 99.6 mmol). The reaction mixture is heated to 60° C. for 1 h. The reaction mixture is cooled down to RT and treated with aqueous 2N sodium hydroxide. After evaporation of 1,4-dioxane under reduced pressure the reaction mixture is extracted twice with DCM (110 mL). The combined organic phases are dried over MgSO4 and evaporated to yield the title compound as a yellowish powder: LC-MS A: tR=0.50 min; [M+H]+=316.32.

reactant | [3-(4-cyclohexylcarbamoyl-piperidin-1-ylmethyl)-phenyl]-carbamic acid tert-butyl ester | 11.1 mmol, 4.6 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)CN1CCC(CC1)C(NC1CCCCC1)=O)=O | C24H37N3O3
reactant | HCl | 4N | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | 1,4-dioxane | 110 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 99.6 mmol, 24.9 mL | O1CCOCC1 | C4H8O2
product | 1-(3-Amino-benzyl)-piperidine-4-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1CCN(CC1)CC1=CC(=CC=C1)N | C19H29N3O
